US04540693
B. 6,7,8,9-Tetrahydro-2-phenazinamine
A 18.0 g (0.078 mole) portion of 6,7,8,9-tetrahydro-2-nitrophenazine and 5 g of 5% Pd/C (50% H2O) were placed in a 1.7 liter stainless steel pressure bottle and subjected to hydrogenation at 40 psig. The hydrogen uptake was 18 lb (theory 17 lb). The reaction mixture was then filtered and concentrated. The filtrate was then concentrated to 1/3 volume, refrigerated, filtered, air dried, and dried to a constant weight at 60° to give 15 g (94%) of a yellow solid, m.p. 150°-152°.

reactant | 6,7,8,9-tetrahydro-2-nitrophenazine | [N+](=O)([O-])C1=CC2=NC=3CCCCC3N=C2C=C1 | C12H11N3O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 6,7,8,9-Tetrahydro-2-phenazinamine | 15 g, 94% | C1=C(C=CC2=NC=3CCCCC3N=C12)N | C12H13N3
